US08022192B2
4-Benzyl-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one (2.00 g) was dissolved in N,N-dimethylformamide (5 mL) at room temperature. N-(Benzyloxycarbonyloxy)succinimide (2.42 g) was added to the solution. The mixture was heated to 50° C. and then stirred for 16 hours. After the addition of water (20 mL) and ethyl acetate (20 mL) to the reaction mixture, the aqueous layer was separated, and the organic layer was washed with water. The obtained organic layer was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate/dichloromethane=1/3 to 1/1) to give 1-benzyloxycarbonyl-4-benzyl-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one (1.15 g).

reactant | 4-Benzyl-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | 2.00 g | C(C1=CC=CC=C1)C=1C(NNC1C(C)C)=O | C13H16N2O
reactant | N-(Benzyloxycarbonyloxy)succinimide | 2.42 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | water | 20 mL | O | H2O
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-benzyloxycarbonyl-4-benzyl-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | 1.15 g | C(C1=CC=CC=C1)OC(=O)N1NC(C(=C1C(C)C)CC1=CC=CC=C1)=O | C21H22N2O3
